US04000164
A mixture of magnesium methyl carbonate in dimethyl formamide (300 g of a 2.0 mM/g solution) is heated in a 120° C oil bath with stirring under carbon dioxide flushing for 1/2 hour. To this mixture is added 32.3 g (0.100 mole) of 5-(tetradecyloxy)-2-furyl methyl ketone, and the oil bath temperature is raised to 130° C to 150° C. Dry nitrogen is flushed through the mixture for 5 hours. The mixture is allowed to cool to room temperature under carbon dioxide flushing after which it is poured slowly into 2 liters of concentrated HCl-ice (1:1) with vigorous stirring. When the evolution of gas is complete the precipitate is collected and washed with cold water, then dried to give 2-[5-(tetradecyloxy)-2-furoyl]acetic acid.

reactant | magnesium methyl carbonate | C(OC)([O-])=O.[Mg+2].COC([O-])=O
reactant | 5-(tetradecyloxy)-2-furyl methyl ketone | 0.100 mole, 32.3 g | CC(=O)C=1OC(=CC1)OCCCCCCCCCCCCCC | C20H34O3
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 2-[5-(tetradecyloxy)-2-furoyl]acetic acid | C(CCCCCCCCCCCCC)OC1=CC=C(O1)C(=O)CC(=O)O | C21H34O5
